US08604038B2
4-({(2S,5R)-5-[(R)-hydroxy(phenyl)methyl]pyrolidin-2-yl}methyl)-N-[(3-phenyl-1H-1,2,4-triazol-5-yl)methyl]benzamide
A mixture of 4-({(2S,5R)-1-(tert-butoxycarbonyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidin-2-yl}methyl)benzoic acid (i-1, 0.020 g, 0.049 mmol) in N,N-dimethylformamide (0.5 ml) was added to 1-(3-phenyl-1H-1,2,4-triazol-5-yl)methanamine (0.018 g, 0.073 mmol) followed by 1-hydroxybenzotriazole (0.0099 g, 0.073 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (EDC) hydrochloride (0.014 g, 0.073 mmol) and N,N-diisopropylethylamine (0.042 ml, 0.24 mmol). The reaction mixture was stirred at ambient temperature for 4 h. The mixture was directly purified by reverse phase HPLC (TMC Pro-Pac C18; 30-100% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). The resulting pure fractions were lyophilized overnight to give the titled compound as a white solid. LC-MS 590.2 (M+23).

reactant | 4-({(2S,5R)-1-(tert-butoxycarbonyl)-5-[(R)-hydroxy(phenyl)methyl]pyrrolidin-2-yl}methyl)benzoic acid | 0.049 mmol, 0.020 g | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1[C@@H](C1=CC=CC=C1)O)CC1=CC=C(C(=O)O)C=C1 | C24H29NO5
reactant | 1-(3-phenyl-1H-1,2,4-triazol-5-yl)methanamine | 0.073 mmol, 0.018 g | C1(=CC=CC=C1)C1=NNC(=N1)CN | C9H10N4
reactant | 1-hydroxybenzotriazole | 0.073 mmol, 0.0099 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 0.073 mmol, 0.014 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N,N-diisopropylethylamine | 0.24 mmol, 0.042 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 4-({(2S,5R)-5-[(R)-hydroxy(phenyl)methyl]pyrolidin-2-yl}methyl)-N-[(3-phenyl-1H-1,2,4-triazol-5-yl)methyl]benzamide | O[C@@H]([C@H]1CC[C@H](N1)CC1=CC=C(C(=O)NCC2=NC(=NN2)C2=CC=CC=C2)C=C1)C1=CC=CC=C1 | C28H29N5O2
